US04425342
To a solution of 4.87 g of N-phenylpiperazine in 150 ml of dichloromethane containing 4.59 ml of triethylamine is added dropwise with stirring under nitrogen a solution of 4.82 g of benzenesulfinyl chloride in 50 ml of dichloromethane. The reaction mixture is stirred for 3 hours at room temperature, diluted with 100 ml of dichloromethane and washed with 150 ml of water and 100 ml of 5% potassium carbonate solution. The organic layer is dried over anhydrous sodium sulfate and evaporated in vacuo to a nearly colorless crystalline solid. Recrystallization from ethanol affords 6.37 g of 1-phenylpiperazine-4-benzenesulfinamide as a nearly colorless crystalline solid, mp, 101°-104° (softens 98°).

reactant | N-phenylpiperazine | 4.87 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzenesulfinyl chloride | 4.82 g | C1(=CC=CC=C1)S(=O)Cl | C6H5ClOS
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-phenylpiperazine 4-benzenesulfinamide | 6.37 g | C1(=CC=CC=C1)N1CCNCC1.C1=CC=C(C=C1)S(=O)N | InChI=1S/C10H14N2.C6H7NOS/c1-2-4-10(5-3-1)12-8-6-11-7-9-12;7-9(8)6-4-2-1-3-5-6/h1-5,11H,6-9H2;1-5H,7H2
